US09233982B2
Step 2: 2-(6,7-dihydrobenzo[b]thiophen-4(5H)-ylidene)ethyl carbamimidothioate
4-Vinyl-4,5,6,7-tetrahydrobenzo[b]thiophen-4-ol (10.1 g, 56 mmol) was dissolved in acetic acid (70 mL) and thiourea (4.3 g, 56 mmol) was added in one portion. The reaction was stirred at 25° C. for 2 hours and then the majority of the acetic acid was removed in vacuo. The residue was diluted with diethyl ether to afford a white solid. This was filtered off and washed with additional ether before being dried in vacuo. The title compound was isolated as the acetate salt (13.8 g, 83%).

reactant | 4-Vinyl-4,5,6,7-tetrahydrobenzo[b]thiophen-4-ol | 56 mmol, 10.1 g | C(=C)C1(CCCC=2SC=CC21)O | C10H12OS
reactant | thiourea | 56 mmol, 4.3 g | NC(=S)N | CH4N2S
solvent | acetic acid | 70 mL | C(C)(=O)O | C2H4O2
product | 2-(6,7-dihydrobenzo[b]thiophen-4(5H)-ylidene)ethyl carbamimidothioate | C(N)(=N)SCC=C1CCCC=2SC=CC21 | C11H14N2S2
